US06884821B1
Using 2,4-dimethoxybenzoic acid and ethyl 3-[3-(aminomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate, 3-(3-[(2,4-dimethoxybenzoyl)amino]methyl-4-methoxyphenyl)-2-isopropoxypropanoic acid was obtained in the same method as in Example 19d) and then in Example 19e).

reactant | 2,4-dimethoxybenzoic acid | COC1=C(C(=O)O)C=CC(=C1)OC | C9H10O4
reactant | ethyl 3-[3-(aminomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate | NCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C16H25NO4
product | 3-(3-[(2,4-dimethoxybenzoyl)amino]methyl-4-methoxyphenyl)-2-isopropoxypropanoic acid | COC1=C(C(=O)NCC=2C=C(C=CC2OC)CC(C(=O)O)OC(C)C)C=CC(=C1)OC | C23H29NO7
